US05665890
Pyrrole (1.0 equivalents) and salicylaldehyde (1.2 equivalents) are dissolved in propionic acid (1 liter/20 ml pyrrole) and the solution is refluxed for 30 minutes. The reaction mixture is allowed to cool to room temperature and stand for one day. The mixture is filtered and the product is recrystallized to yield 5,10,15,20-tetrakis(2'-hydroxyphenyl)porphyrin.

reactant | Pyrrole | 1.0 equivalents | N1C=CC=C1 | C4H5N
reactant | salicylaldehyde | 1.2 equivalents | C(C=1C(O)=CC=CC1)=O | C7H6O2
solvent | propionic acid | 1 liter | C(CC)(=O)O | C3H6O2
product | 5,10,15,20-tetrakis(2'-hydroxyphenyl)porphyrin | OC1=C(C=CC=C1)C=1C2=CC=C(N2)C(=C2C=CC(C(=C3C=CC(=C(C=4C=CC1N4)C4=C(C=CC=C4)O)N3)C3=C(C=CC=C3)O)=N2)C2=C(C=CC=C2)O | C44H30N4O4
